US08492559B2
Stage 2: tert-Butyl 2-(6-amino-1H-indol-1-yl)acetate
A mixture of tert-butyl 2-(6-nitro-1H-indol-1-yl)acetate (1.44 mmol, 1 equiv.), iron powder (5.76 mmol, 4 equiv.), ammonium chloride (4 equiv.) and ethanol (10 ml) was stirred for 4 h at boiling temperature. The reaction mixture was cooled to 25° C. and filtered over celite. The filtrate was concentrated, diluted with water (50 ml) and extracted with dichloromethane (3×20 ml). The combined organic phases were washed with water and sat. NaCl solution (in each case 10 ml), dried over Na2SO4 and concentrated under reduced pressure. For purification, the product was recrystallized from ethyl acetate/hexane. Yield: 61%

reactant | tert-butyl 2-(6-nitro-1H-indol-1-yl)acetate | 1.44 mmol, 1 equiv. | [N+](=O)([O-])C1=CC=C2C=CN(C2=C1)CC(=O)OC(C)(C)C | C14H16N2O4
reactant | ammonium chloride | 4 equiv. | [Cl-].[NH4+]
catalyst | iron | 5.76 mmol, 4 equiv. | [Fe] | Fe
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | tert-Butyl 2-(6-amino-1H-indol-1-yl)acetate | Yield: 61% | NC1=CC=C2C=CN(C2=C1)CC(=O)OC(C)(C)C | C14H18N2O2
